US08912188B2
To a solution of methyl 3-(dipropylamino)-2-(4-fluorophenyl)quinoxaline-6-carboxylate (50 mg, 0.13 mmol) in methanol (15 mL) was added a solution of sodium hydroxide (10 mg, 0.25 mmol) in water (1 mL). The resulting solution was stirred overnight at room temperature and then concentrated in vacuo. The residue was dissolved in water (20 mL) and adjusted to pH 5 with hydrochloric acid (3N). The resulting solution was extracted with dichloromethane (4×20 mL), and the organic layers combined, dried over anhydrous magnesium sulfate, and concentrated in vacuo to afford 3-(dipropylamino)-2-(4-fluorophenyl)quinoxaline-6-carboxylic acid as a yellow solid (22.4 mg, 46%).

reactant | methyl 3-(dipropylamino)-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 0.13 mmol, 50 mg | C(CC)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F)CCC | C22H24FN3O2
reactant | sodium hydroxide | 0.25 mmol, 10 mg | [OH-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | 3-(dipropylamino)-2-(4-fluorophenyl)quinoxaline-6-carboxylic acid | 22.4 mg, 46% | C(CC)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=C(C=C1)F)CCC | C21H22FN3O2
